US03937713
Preparation of 1-acetyl-4-(2-chloro-5-methylphenyl)-3-thiosemicarbazide
One tenth mole, 18.3 g., of 2-chloro-5-methylphenylisothiocyanate and 11.0 g. (0.15 mole) of acetylhydrazine were refluxed for 7 hours in 500 ml. of THF. After cooling, the insoluble product was collected by filtration. The crude product was collected by filtration. The crude product was washed with water, filtered and dried. The yield was 25 g. of 1-acetyl-4-(2-chloro-5-methylphenyl)-3-thiosemicarbazide, m.p. about 145°-157°C.

reactant | 2-chloro-5-methylphenylisothiocyanate | ClC1=C(C=C(C=C1)C)N=C=S | C8H6ClNS
reactant | acetylhydrazine | 0.15 mole | C(C)(=O)NN | C2H6N2O
solvent | THF | C1CCOC1 | C4H8O
product | 1-acetyl-4-(2-chloro-5-methylphenyl)-3-thiosemicarbazide | C(C)(=O)NNC(=S)NC1=C(C=CC(=C1)C)Cl | C10H12ClN3OS
